US07776847B2
A mixture of N1-(benzo[d]isothiazol-3-yl)ethane-1,2-diamine (600 mg, 3.1 mmol), N α (t-butoxycarbonyl)phenylglycine (850 mg, 3.4 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (650 mg, 3.4 mmol), 1-hydroxybenzotriazole (520 mg, 3.4 mmol) and triethylamine (950 μL, 6.8 mmol) in dichloromethane (50 mL) was allowed to stir at room temperature overnight. The reaction mixture was washed successively with 1N aqueous hydrochloric acid, saturated sodium bicarbonate solution and water, then dried over anhydrous sodium sulfate, filtered and the filtrate concentrated under reduced pressure. Purification by flash column chromatography, on silica gel, eluting with a mixture of 30% ethyl acetate in hexanes and selected fractions were combined and concentrated under reduced pressure to give (S)-tert-butyl 2-(2-(benzo[d]isothiazol-3-ylamino)ethylamino)-2-oxo-1-phenylethylcarbamate (720 mg) as a white solid. 1H NMR (300 MHz, CDCl3): 7.78 (d, 1H), 7.61 (d, 1H), 7.49 (t, 1H), 7.30 (t, 1H), 7.21 (m, 2H), 7.18 (m, 2H), 6.95 (t, 1H), 5.66 (m, 2H), 5.10 (broad s, 1H), 3.62 (m, 4H), 1.39 ppm (s, 9H). MW=427 confirmed by LC-MS, tr=13.38 min (Method Y) MH+=428.

reactant | N1-(benzo[d]isothiazol-3-yl)ethane-1,2-diamine | 3.1 mmol, 600 mg | S1N=C(C2=C1C=CC=C2)NCCN | C9H11N3S
reactant | (t-butoxycarbonyl)phenylglycine | 3.4 mmol, 850 mg | C(C)(C)(C)OC(=O)N(CC(=O)O)C1=CC=CC=C1 | C13H17NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.4 mmol, 650 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 3.4 mmol, 520 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 6.8 mmol, 950 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (S)-tert-butyl 2-(2-(benzo[d]isothiazol-3-ylamino)ethylamino)-2-oxo-1-phenylethylcarbamate | 720 mg | S1N=C(C2=C1C=CC=C2)NCCNC([C@H](C2=CC=CC=C2)NC(OC(C)(C)C)=O)=O | C22H26N4O3S
